US07550598B2
(R,Z)-1-methyl-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)pyrrolidine-2-carboxamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and (R)-1-methylpyrrolidine-2-carbonyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.71 (t, J=7.33 Hz, 3H) 1.30-1.40 (m, J=7.45, 7.45, 7.45, 7.45 Hz, 2H) 1.94-2.04 (m, 2H) 2.10-2.23 (m, 3H) 2.60-2.63 (m, 1H) 2.91 (s, 3H) 3.24-3.27 (m, 1H) 4.21-4.30 (m, 1H) 6.79 (s, 1H) 7.57 (t, J=7.71 Hz, 1H) 7.75-7.83 (m, 3H) 7.85-7.90 (m, 3H) 8.09 (d, J=8.08 Hz, 1H) 9.87 (s, 1H) 11.01 (s, 1H); ESI-MS: m/z calc'd for C27H29N5O2S 487.62. found 488.1 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | (R)-1-methylpyrrolidine-2-carbonyl chloride | CN1[C@H](CCC1)C(=O)Cl | C6H10ClNO
solvent | THF | C1CCOC1 | C4H8O
product | (R,Z)-1-methyl-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)pyrrolidine-2-carboxamide | CN1[C@H](CCC1)C(=O)NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C27H29N5O2S
